US06605628B1
3-Thiophene-2-yl-prop-2-yn-1-ol
In a manner described in Example 18 above, propargyl alcohol was reacted with 2-bromothiophene to give the title compound as a brown oil which was used in the next step without further purification.

reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
product | 3-Thiophene-2-yl-prop-2-yn-1-ol | S1C(=CC=C1)C#CCO | C7H6OS
